US08138187B2
2-(2-(1H-Indol-3-yl)ethyl)-1-methyl-1H-benzo[d]imidazole (Ind-54)
A mixture of 3-indolepropionic acid (2.85 g, 15 mmol) and N-methyl-1,2-phenylenediamine (611 mg, 5.0 mmol) was stirred at 130° C. for 5H, during which a dark brown viscous mass forms, which was dissolved in chloroform (100 ml). The organic solution was then washed with 10% strength Na2CO3 solution (2×30 ml) and water, dried over Na2SO4 and concentrated i. vac. and the residue was purified by flash chromatography with cyclohexane/EA (1:1). Yield: 863 mg (Ind-54, 63%), colourless solid

reactant | 3-indolepropionic acid | 15 mmol, 2.85 g | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | N-methyl-1,2-phenylenediamine | 5.0 mmol, 611 mg | CNC1=C(C=CC=C1)N | C7H10N2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-(1H-Indol-3-yl)ethyl)-1-methyl-1H-benzo[d]imidazole | N1C=C(C2=CC=CC=C12)CCC1=NC2=C(N1C)C=CC=C2 | C18H17N3
